US08647882B2
b. Hydrolysis to (S)-3-(3,5-dinitrobenzamido)-3-phenylpropionic Acid
15.4 g of ethyl (S)-3-(3,5-dinitrobenzamido)-3-phenylpropionate from reaction a were dissolved in 100 ml of tetrahydrofuran, and the resulting solution was admixed with 50 ml of water. With vigorous stirring, the slightly cloudy reaction mixture was heated to 45° C., and the pH was adjusted to 13-13.5 with 32% aqueous sodium hydroxide solution and kept constant for the course of the reaction. After the reaction ended (HPLC monitoring >99 area % conversion), the pH of the solution was adjusted to 7-8 by adding 6 N hydrochloric acid, then the organic solvent was distilled off under reduced pressure. The aqueous solution was diluted to 350 ml with water, and the pH was adjusted to 1-2 with 6 N hydrochloric acid with vigorous stirring. The precipitated product was filtered off with suction and washed twice with water. After drying at 40° C. under reduced pressure, a yield of 13.67 g was determined. The HPLC purity was 99.8 area %.

reactant | ethyl (S)-3-(3,5-dinitrobenzamido)-3-phenylpropionate | 15.4 g | [N+](=O)([O-])C=1C=C(C(=O)N[C@@H](CC(=O)OCC)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C18H17N3O7
reactant | water | 50 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (S)-3-(3,5-dinitrobenzamido)-3-phenylpropionic Acid | [N+](=O)([O-])C=1C=C(C(=O)N[C@@H](CC(=O)O)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C16H13N3O7
